US07838518B2
4-Methoxynaphthylsulfonyl chloride (1.25 g, 5 mmol.) was added portionwise to ethyl-2,3-dihydro-1H indole-3-acetate (1 g, 5 mmol) in dichloromethane (20 cm3), containing triethylamine (1 cm3, 7 mmol) at 0° C. After stirring at room temperature for 4 h, the reaction was diluted with water and the organic layer was separated, dried and concentrated to give ethyl-1-(4-methoxynaphthylsulfonyl)-2,3-dihydroindole-3-acetate as an oil (2 g, 4.7 mmol, 94%). This was then taken up in ethyl alcohol (20 cm3) and aqueous sodium hydroxide (4N, 7 cm3, 28 mmol) was added and the resulting mixture was stirred and heated together at reflux for 2 h. The reaction mixture was then cooled and the ethyl alcohol was removed under reduced pressure. The residue was taken up in water and extracted once with diethyl ether to remove any unreacted ester. The aqueous mixture was then acidified and the product extracted into ethyl acetate. The organic layer was separated, dried and concentrated to provide 1-(4-methoxynaphthylsulfonyl)-2,3-dihydro-indole-3-acetic acid as a solid (1.17 g, 3.00 mmol, 64%).

reactant | 4-Methoxynaphthylsulfonyl chloride | 5 mmol, 1.25 g | COC1=CC=C(C2=CC=CC=C12)S(=O)(=O)Cl | C11H9ClO3S
reactant | ethyl-2,3-dihydro-1H indole-3-acetate | 5 mmol, 1 g | C(C)OC(CC1CNC2=CC=CC=C12)=O | C12H15NO2
reactant | triethylamine | 7 mmol, 1 cm3 | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
solvent | water | O | H2O
product | ethyl-1-(4-methoxynaphthylsulfonyl)-2,3-dihydroindole-3-acetate | 4.7 mmol, 2 g, 94% | C(C)OC(CC1CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C2=CC=CC=C12)OC)=O | C23H23NO5S
